US07544637B2
2.1: 2-Amino-6-methoxybenzonitrile
A solution of 70 g (0.5 mol) of 2-amino-6-fluorobenzonitrile (prepared, e.g. according to U.S. Pat. No. 4,504,660) in 250 ml of N,N-dimethylformamide was prepared, and a solution of 30.6 g (0.55 mol) of sodium methoxide in 70 ml of methanol was added dropwise at room temperature while stirring. The mixture was then refluxed for 5 hours with stirring. The completion of the reaction was monitored by TLC. An additional 25 g of sodium methoxide in 35 ml methanol were added and the reaction mixture was refluxed for an additional 4 hours while stirring. The reaction mixture was concentrated under reduced pressure. The resulting residue was triturated with water, filtered off with suction and the solids obtained were dissolved in ethyl acetate. The resulting solution was concentrated in vacuo. The obtained residue was triturated with petroleum ether and filtered off with suction. Yield: 48 g (63% of theory) of a brownish solid having a melting point of 143-146° C.

reactant | 2-amino-6-fluorobenzonitrile | 0.5 mol, 70 g | NC1=C(C#N)C(=CC=C1)F | C7H5FN2
reactant | sodium methoxide | 0.55 mol, 30.6 g | C[O-].[Na+]
reactant | sodium methoxide | 25 g | C[O-].[Na+]
solvent | N,N-dimethylformamide | 250 ml | CN(C=O)C | C3H7NO
solvent | methanol | 70 ml | CO | CH4O
solvent | methanol | 35 ml | CO | CH4O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 2-Amino-6-methoxybenzonitrile | NC1=C(C#N)C(=CC=C1)OC | C8H8N2O
